US06258812B1
1-(4-Cyanoanilino)-4-(4-pyridylmethyl)phthalazine
A mixture of 0.384 g (1.5 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine and 0.532 g (4.5 mmol) 4-aminobenzonitrile is heated for 1.5 h at 90° C. The reaction mixture is then distributed between dichloromethane and 20% aqueous potassium carbonate solution. The organic phase washed with water and dried over sodium sulfate is evaporated and the residue purified on silica gel by flash chromatography using acetate/methanol mixtures (50:1 and 25:1). Title compound is obtained after crystallization of the product-containing fractions from dichloromethane and drying under HV (8 h, 90° C.); m.p. 228-230° C.; ESI-MS: (M+H)+=338.

reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 1.5 mmol, 0.384 g | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | 4-aminobenzonitrile | 4.5 mmol, 0.532 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-Cyanoanilino)-4-(4-pyridylmethyl)phthalazine | C(#N)C1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C1 | C21H15N5
